Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
carbamazepine
 
Attending: ___.
 
Chief Complaint:
Dysuria & urinary frequency
 
Major Surgical or Invasive Procedure:
___ placement
 
History of Present Illness:
___ with h/o recurrent UTIs, seen in outside ED on ___ with
cystitis symptoms (dysuria, suprapubic tenderness).  UA positive 
(no urine culture sent), and was discharged home from the ED 
with 7 day course of nitrofurantoin. Felt a bit better, but ___ 
days after completion of antibiotics, developed nausea, gross 
hematuria with dysuria, bilateral flank pain. chills/sweats. 
Seen on ___ with Dr ___ as urgent care visit with these 
symptoms. Looked clinically well, afebrile. Had some bilateral 
flank tenderness and suprapubic tenderness, positive urine dip. 
Sent home with Cipro 500mg PO bid. This morning, urine culture 
returned showing E. coli resistant to TMP-SMX and ciprofloxacin. 
 She is therefore admitted for IV abx.

Her pre-hospitalization data include: vitals (___)
T: 98.7F    BP: 114/77   HR: 92 

On arrival to the floor, pt reports mild nausea, and back pain, 
but otherwise well.

 
Past Medical History:
ANXIETY 
IRON DEFICIENCY ANEMIA 
PELVIC INFLAMMATORY DISEASE 
ASTHMA 
H/O ABNORMAL PAP SMEAR 
H/O URINARY TRACT INFECTION 
H/O BACTERIAL VAGINOSIS 
H/O CHLAMYDIA 
H/O GONORRHEA 

DILATION AND CURETTAGE 
DILATION AND EVACUATION 
ADENOIDECTOMY 
LEEP 

 
Social History:
___
Family History:
T2DM
 
Physical Exam:
ADMISSION EXAM:
General- Alert, oriented, no acute distress  
HEENT- Sclerae anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- CTAB no wheezes, rales, rhonchi  
CV- RRR, Nl S1, S2, No MRG  
Abdomen- soft, mild suprapubic tenderness, no rebound tenderness 
or guarding, no organomegaly  
BACK - mod CVA tenderness
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, motor function grossly normal  

DISCHARGE EXAM:
Vitals-  98.5 121/78 (100-120s) 79 (70-80s) 16 100% RA
General- Alert, oriented, no acute distress  
HEENT- Sclerae anicteric, MMM, oropharynx clear  
Neck- supple, 
Lungs- CTAB no wheezes, rales, rhonchi  
CV- RRR, Nl S1, S2, No MRG  
Abdomen- soft, NTND, (+) BS
BACK - mild tenderness on back percussion
GU- no foley  
Ext- warm, well perfused, no clubbing, cyanosis or edema  
Neuro- alert, conversing fluently, able to move all extremities 

 
Pertinent Results:
ADMISSION LABS:
___ 08:44PM   PLT COUNT-278
___ 08:44PM   WBC-8.0# RBC-4.20 HGB-11.2 HCT-35.3 MCV-84 
MCH-26.7 MCHC-31.7* RDW-14.4 RDWSD-43.7
___ 08:44PM   CALCIUM-9.2 PHOSPHATE-3.9 MAGNESIUM-1.9
___ 08:44PM   estGFR-Using this
___ 08:44PM   GLUCOSE-90 UREA N-15 CREAT-0.6 SODIUM-140 
POTASSIUM-4.4 CHLORIDE-105 TOTAL CO2-25 ANION GAP-14

DISCHARGE LABS:
___ 08:00AM BLOOD WBC-7.5 RBC-4.38 Hgb-11.5 Hct-37.1 MCV-85 
MCH-26.3 MCHC-31.0* RDW-14.3 RDWSD-43.8 Plt ___
___ 08:00AM BLOOD Glucose-89 UreaN-14 Creat-0.7 Na-135 
K-4.4 Cl-101 HCO3-23 AnGap-15
___ 08:00AM BLOOD Calcium-9.1 Phos-4.3 Mg-1.8

MICRO:
Time Taken Not Noted     Log-In Date/Time: ___ 6:43 pm
      URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------     8 I
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

IMAGING: ___
EXAMINATION:  DX CHEST PORTABLE PICC LINE PLACEMENT 
Chest radiograph ___. 
IMPRESSION:  
Left PIC catheter ends in the upper to mid SVC.  Lungs clear.  
Normal 
cardiomediastinal and hilar silhouettes and pleural surfaces. 

 
Brief Hospital Course:
___ h/o recurrent UTI, anemia, PID, asthma, presents w/ urinary 
urgency/dysuria/frequency, being directed admitted for IV abx 
for pyelonephritis

# Pyelonephritis -pt has history of recurrent UTI, presented w/ 
urinary urgency/dysuria/frequency, admitted for pyelonephritis 
and started on ceftriaxone. Patient previously failed PO 
nitrofurantoin and PO Cipro prior to admission. She was started 
on IV ceftriaxone and clinically improved. Urine culture grew 
out multi-drug resistant E coli, sensitive to ceftriaxone. She 
was discharged on IV ceftriaxone to complete a total 7 day 
course (last day ___. 

TRANSITIONAL ISSUES:
-Continue ceftriaxone for total 7 days (___)
-remove PICC after antibiotics completed
- Can return to work on ___
# CODE STATUS: Full  
# CONTACT: daughter ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. CeftriaXONE 1 gm IV Q24H 
RX *ceftriaxone in dextrose,iso-os 1 gram/50 mL 1 gm IV daily 
Disp #*4 Intravenous Bag Refills:*0
2. Multivitamins 1 TAB PO DAILY 
3. Phenazopyridine 100 mg PO TID Duration: 2 Days 
RX *phenazopyridine [Pyridium] 100 mg 1 tablet(s) by mouth three 
times a day Disp #*6 Tablet Refills:*0
4. TraMADOL (Ultram) 50 mg PO Q6H:PRN breakthrough pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*8 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Pyelonephritis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at ___ 
___. You came to the hospital because of burning with 
urination and increased frequency. You were found to have 
pyelonephritis (infection of your kidney and urinary system due 
to bacteria). We started you on IV antibiotics and you improved. 
You should continue taking the IV antibiotics for 4 more days 
(Last Day = ___. It is important to complete all the 
antibiotics to prevent the infection from returning. 

Please follow up with the appointment below.

We wish you the best!
~Your ___ Team
 
Followup Instructions:
___